US09024027B2
Step 2. Preparation of (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(1,3-dioxo-3,4-dihydroisoquinolin-2(1H)-yl)acetoxy)ethyl)pyridine 1-oxide (263)
(S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(5-nitro-1,3-dioxoisoindolin-2-yl)acetoxy)ethyl)pyridine 1-oxide (40 mg, 0.062 mmol) was dissolved in DCM (2 ml), and added with 2-(1,3-dioxo-3,4-dihydroisoquinolin-2(1H)-yl)acetyl chloride (163 mg, 0.686 mmol) and DMAP (84 mg, 0.686 mmol). The reaction was stirred at RT overnight and quenched by addition of HCl. The solution extracted with DCM and washed with NaHCO3 sat. sol., then dried over Na2SO4 and the solvent removed under reduced pressure. The crude was purified by preparative HPLC (Method 2) to yield the titled compound (30.0 mg, 52% yield).). 1H NMR (400 MHz, acetone) ppm 8.19 (s, 2H), 8.09-8.15 (m, 1H), 7.67-7.79 (m, 1H), 7.44-7.61 (m, 2H), 7.15-7.24 (m, 2H), 7.01-7.09 (m, 1H), 6.94 (t, J=75.00 Hz, 1H), 6.01-6.25 (m, 1H), 4.68 (s, 2H), 4.24 (s, 2H), 4.03 (dd, J=6.84, 2.87 Hz, 2H), 3.42-3.60 (m, 1H), 3.20-3.38 (m, 1H), 1.24-1.46 (m, 1H), 0.65 (dd, J=8.16, 1.54 Hz, 2H), 0.43 (d, J=5.73 Hz, 2H); MS/ESI+ 621.3 [MH]+

reactant | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(5-nitro-1,3-dioxoisoindolin-2-yl)acetoxy)ethyl)pyridine 1-oxide | 0.062 mmol, 40 mg | ClC=1C=[N+](C=C(C1C[C@H](OC(CN1C(C2=CC=C(C=C2C1=O)[N+](=O)[O-])=O)=O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C28H21Cl2F2N3O9
reactant | 2-(1,3-dioxo-3,4-dihydroisoquinolin-2(1H)-yl)acetyl chloride | 0.686 mmol, 163 mg | O=C1N(C(CC2=CC=CC=C12)=O)CC(=O)Cl | C11H8ClNO3
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.686 mmol, 84 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(1,3-dioxo-3,4-dihydroisoquinolin-2(1H)-yl)acetoxy)ethyl)pyridine 1-oxide | 30.0 mg, 52% yield | ClC=1C=[N+](C=C(C1C[C@H](OC(CN1C(C2=CC=CC=C2CC1=O)=O)=O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C29H24Cl2F2N2O7
